US05753679
1.41 g (0.00733 mol) of 1-benzyl-4-hydroxypiperidine and 1.8 ml (0.0129 mol) of triethylamine were dissolved in 50 ml of toluene and treated with 0.79 ml (0.00586 mol) of 3-methoxy-benzoyl chloride. The mixture was boiled at reflux for 2 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:3→1:2→1:1)). 1.52 g (80%) of 1-benzyl-piperidin-4-yl 3-methoxy-benzoate were obtained as a yellowish oil. MS: me/e (% basic peak)=325 (C20H23NO3+, 7.6), 248 (4), 173 (30.3), 135 (13), 91 (78), 82 (100).

reactant | 1-benzyl-4-hydroxypiperidine | 0.00733 mol, 1.41 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.0129 mol, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methoxy-benzoyl chloride | 0.00586 mol, 0.79 ml | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 3-methoxy-benzoate | 1.52 g, 80% | COC=1C=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC1 | C20H23NO3
